US05409666
1-Hydroxymethylpyrene
To a suspension of pyrene carboxaldehyde (9.6 g, 42 mmol) in ethanol (50 mL) was added NaBH4 (2 g) and the mixture was stirred at room temperature for 6 hours. Water (100 mL) was added and the mixture was extracted with ether (2×50 mL). The organic layer was dried over MgSO4, and the solvent evaporated under reduced pressure to give a light-yellow solid which was recrystallized from ethyl acetate to afford prisms, m.p. 125°-126° C., yield: 8.3 g, 86%.

reactant | pyrene carboxaldehyde | 42 mmol, 9.6 g | C1(=CC=C2C=CC3=CC=CC4=CC=C1C2=C34)C=O | C17H10O
reactant | NaBH4 | 2 g | [BH4-].[Na+]
reactant | Water | 100 mL | O | H2O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 1-Hydroxymethylpyrene | OCC1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C17H12O
